US03952012
To a solution of 500 ml. of 25% aqueous methylamine is added 93 g. (0.46 mole) of diethyl acetone-dicarboxylate. To the mixture is added 72 g. (0.782 mole) of chloroacetone over a 10 min. period. The temperature is kept below 60°C. by external cooling. After 2 hours, the mixture is poured into ice-hydrochloric acid. The solid is collected by filtration, washed with water and air dried. It is recrystallized from hexane to give ethyl 1,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetate as a white solid, m.p. 71°-72°C.

reactant | methylamine | CN | CH5N
reactant | diethyl acetone-dicarboxylate | 0.46 mole | CCOC(=O)CC(=O)CC(=O)OCC | C9H14O5
reactant | chloroacetone | 0.782 mole | ClCC(C)=O | C3H5ClO
product | ethyl 1,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetate | CN1C(=C(C(=C1)C)C(=O)OCC)CC(=O)OCC | C13H19NO4
